US05463073
39c) Methyl 2-Ethylthio-4-phenylthieno[3,4-d]imidazole- 6-carboxylate
A solution of methyl 2-mercapto-4-phenylthieno[3,4-d]imidazole-6-carboxylate (1.7 g), ethyl iodide and 2N NaOH (3 ml) in methanol (30 ml) was stirred at room temperature for 6.5 hr. The reaction solution was concentrated to dryness and the residue was triturated with H2O to give a crystalline product. Recrystallization from MeOH-EtoAc to give pale yellow needles (1.3 g, 68%). m.p. 214°-215° C.

reactant | methyl 2-mercapto-4-phenylthieno[3,4-d]imidazole-6-carboxylate | 1.7 g | SC=1NC=2C(N1)=C(SC2C2=CC=CC=C2)C(=O)OC | C13H10N2O2S2
reactant | ethyl iodide | C(C)I | C2H5I
reactant | NaOH | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 2-Ethylthio-4-phenylthieno[3,4-d]imidazole- 6-carboxylate | 1.3 g, 68% | C(C)SC=1NC=2C(N1)=C(SC2C2=CC=CC=C2)C(=O)OC | C15H14N2O2S2
